US05338740
A. 2-[5-(2-Butyl-imidazo[4,5-b]pyridin-3yl)-naphthalen-2-yl]-benzonitrile
To a solution of 2-butyl-3-(6-tributylstannanyl-naphthalen-1-yl)-3H-imidazo[4,5-b]pyridine (310 mg, 0.56 mmol) in anhydrous dioxane (1.5 mL) was added 2-bromobenzonitrile (109 mg, 0.6 mmol) and PdCl2 (PPh3)3 (44 mg, 0.06 mmol). The reaction mixture was heated under reflux for 17 hours, cooled to 23° C. and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 30% ethyl acetate/hexanes to give 85 mg of the desired product. 1H NMR (250 MHz, CDCl3): d 8.28 (d, 1 H), 8.25 (s, 1 H), 8.17 (dd, 2 H), 7.60 (m, 7 H), 7.28 (m, 2.70 (t, 2 H), 1.76 (m, 2 H), 1.32 (m, 2 H), 0.83 (t, 3 H).

reactant | 2-butyl-3-(6-tributylstannanyl-naphthalen-1-yl)-3H-imidazo[4,5-b]pyridine | 0.56 mmol, 310 mg | C(CCC)C1=NC=2C(=NC=CC2)N1C1=CC=CC2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC
reactant | 2-bromobenzonitrile | 0.6 mmol, 109 mg | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2-[5-(2-Butyl-imidazo[4,5-b]pyridin-3yl)-naphthalen-2-yl]-benzonitrile | 85 mg | C(CCC)C1=NC=2C(=NC=CC2)N1C1=C2C=CC(=CC2=CC=C1)C1=C(C#N)C=CC=C1 | C27H22N4
